US08119641B2
3-Amino-furo[3,2-c]pyrazole-1,5-dicarboxylic acid 1-ethyl ester 5-propyl ester
A solution of ethyl chlorocarbonate (4.90 mL, 51.7 mmol) in tetrahydrofuran (THF, 60 mL) was slowly added to a mixture of 3-Amino-1H-furo[3,2-c]pyrazole-5-carboxylic acid propyl ester (12.0 g, 50.2 mmol) and diisopropylethylamine (DIEA, 51.5 mL, 301 mmol) in THF (300 mL), maintaining the temperature between −5 and −10° C. The reaction was kept at the same temperature for 5 minutes then allowed to reach room temperature. The obtained mixture was evaporated to dryness under vacuum and the residue extracted with ethyl acetate (AcOEt) and water. The organic layer was separated, dried over sodium sulphate and evaporated to dryness. The resulting raw material was triturated with diethyl ether to give 13.7 g of the title compound as a white solid.

reactant | ethyl chlorocarbonate | 51.7 mmol, 4.90 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 3-Amino-1H-furo[3,2-c]pyrazole-5-carboxylic acid propyl ester | 50.2 mmol, 12.0 g | C(CC)OC(=O)C1=CC=2NN=C(C2O1)N | C9H11N3O3
reactant | diisopropylethylamine | 301 mmol, 51.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 300 mL | O1CCCC1 | C4H8O
product | 3-Amino-furo[3,2-c]pyrazole-1,5-dicarboxylic acid 1-ethyl ester 5-propyl ester | 13.7 g | C(CC)OC(=O)C1=CC=2N(N=C(C2O1)N)C(=O)OCC | C12H15N3O5
